US04701464
By the method of Example 20, 10 g (0.09 mole) of 2-fluoro-4-methylpyridine and 16 g (0.09 mole) of N-bromosuccinimide were reacted in 90 ml of carbon tetrachloride to produce 4.18 g 4-bromomethyl-2-fluoropyridine. The ir, proton nmr, and 19F nmr spectra were all consistent with the proposed structure.

reactant | 2-fluoro-4-methylpyridine | 0.09 mole, 10 g | FC1=NC=CC(=C1)C | C6H6FN
reactant | N-bromosuccinimide | 0.09 mole, 16 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 90 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromomethyl-2-fluoropyridine | 4.18 g | BrCC1=CC(=NC=C1)F | C6H5BrFN
